data/mechanisms/records/IMS8-EQ8.106b.json
{"mechanism_id": "IMS8-EQ8.106b", "species": [{"species_id": "ethoxy_methoxypropane_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][O:3][CH2:4][CH2:5][CH2:6][O+:7][CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "tetrahydrofuran_radical_cation", "mapped_smiles": "[CH2:2]1[O+:3][CH2:4][CH2:5][CH2:6]1", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "dimethyl_ether_neutral", "mapped_smiles": "[CH3:1][O:7][CH3:8]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethoxy_methoxypropane_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["tetrahydrofuran_radical_cation", "dimethyl_ether_neutral"]}], "steps": [{"step_id": "step_re_elimination_charge_on_ring", "from_state": "state_precursor", "to_state": "state_products", "step_class": "elimination", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "lone_pair", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [2, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_106b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_re_elimination_charge_on_ring", "support_type": "textbook_proposed", "locator": {"page": 213, "equation": "8.106", "figure": null, "panel": "right-hand product set (the branch after 'or')", "section": "8.11 Other rearrangements, sub-heading 'Elimination:'"}, "confidence": 0.65, "curator_note": "THIS RECORD IS THE SECOND BRANCH of Equation 8.106, the one printed after the word 'or'. The single precursor is drawn once: A bonded to B, D bonded to C, B and C joined by the U-arc that stands for the rest of the ion, and '+(.)' above D. The 're' arrow leads to two alternative product sets - branch 1 (record IMS8-EQ8.106a) writes 'A-D' with '+(.)' above D plus the cyclized 'B-C' fragment; branch 2, encoded here, writes the SAME two fragments but with '+(.)' printed above the C of the cyclized B-C fragment, i.e. the charge is retained by the ejected interior ring instead of by the A-D molecule. The bond changes are identical in both branches (A-B and C-D break, A-D and B-C form); only the charge location differs, which is the classic charge-retention/charge-migration alternative. ARC COUNT (convention D): Book draws 0 arc(s) - the page prints no curved arrows or fishhooks anywhere in 8.106. All five moves are curator-supplied to make the drawn products electron-balanced. Four of them are the same homolytic bookkeeping as in branch 1 (each breaking bond feeds the two forming bonds); the fifth, move <2>, is the one that produces THIS branch rather than branch 1: one electron of a lone pair on the interior heteroatom completes the new A-D bond, so the hole (charge + odd electron) ends up on the interior ring while D leaves neutral, and move <5> returns the second electron of the breaking C-D bond to D so that it closes its shell. A charge migration of this kind is unavoidable in branch 2: a pure two-bonds-in/two-bonds-out rearrangement necessarily leaves the charge on D, so the book's 'or' is a statement about which fragment holds the charge (decided by ionization energies), not about a different arrow pattern. ARROW-CHECK NOTE: the deterministic checker compares predicted non-bonding electrons with RDKit radical counts, and a one-electron hole reads as +1 radical while the arrows record -1 electron, so it emits two '(soft) ... consistent with a lone pair rather than radicals' advisories for atoms 3 and 7; those are the charge-migration moves, and they are intended. INSTANTIATION (convention F): the page prints no m/z and no intensity. Same precursor as record IMS8-EQ8.106a - the 1-ethoxy-3-methoxypropane molecular ion CH3CH2-O-CH2CH2CH2-O(+.)-CH3 (C6H14O2, m/z 118.0983), chosen because it gives BOTH branches a localizable charge site on oxygen. Branch 2 ejects neutral dimethyl ether (46.0419) and keeps the charge on the cyclized interior fragment, the tetrahydrofuran radical cation (m/z 72.0564). LOCALIZATION (convention B): the precursor carries the charge and odd electron explicitly on the methoxy oxygen ([O+:7], the atom the book marks '+(.)'), and the product ion carries them explicitly on the ring oxygen ([O+:3] with two bonds = one unpaired electron in RDKit). MS context is taken from the page's own closing paragraph: 'molecular ions formed by 70-eV electron ionization'."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 118.0983, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_72", "species_id": "tetrahydrofuran_radical_cation", "step_id": "step_re_elimination_charge_on_ring", "observed_mz": 72.0564, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
